US08975265B2
A mixture of (E)-3-{2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylamide (111 mg, 0.27 mmol) and 10% palladium on carbon (14 mg) in MeOH (10 mL) was stirred under a hydrogen atmosphere for 23 h, additional palladium on carbon (14 mg) was added and the reaction was stirred under a hydrogen atmosphere for 6 h. The resulting mixture was filtered. The resulting solution was concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera Flash NH2 Snap 10 reverse phase column; 100% CH2Cl2 for 8 min., gradient to 95% CH2Cl2: 5% MeOH over 5 min.; 95% CH2Cl2: 5% MeOH for 4 min., gradient to 80% CH2Cl2: 20% MeOH over 5 min., 80% CH2Cl2: 20% MeOH for 6.2 min.) to give 3-{2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-propionamide (24 mg, 17%):

reactant | (E)-3-{2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-acrylamide | 0.27 mmol, 111 mg | NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)/C=C/C(=O)N)C1C1=CC=CC=C1 | C26H24N4O
catalyst | palladium on carbon | 14 mg | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 14 mg | [Pd] | Pd
product | 3-{2-[4-(1-amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-propionamide | 24 mg, 17% | NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)CCC(=O)N)C1C1=CC=CC=C1 | C26H26N4O
